US07968538B2
1-(2-(3,5-Dichlorobenzylamino)-4-fluoro-nitrobenzene
A mixture of 2,4-difluoronitrobenzene (5.0 mmol), 3,5-dichlorobenzylamine (5.0 mmol), N,N-diisopropylethylamine (10.0 mmol) and acetonitrile (25 mL) was heated at reflux for 18 h, cooled and concentrated in vacuo. The residue was dissolved in ethyl acetate; this solution was washed with water, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using 5% ethyl acetate in hexanes as eluent to yield the title compound as a yellowish solid (46%). 1H NMR (400 MHz, CDCl3): δ 9.28 (br s, 1H), 7.88 (m, 1H), 7.34 (s, 1H), 7.22 (s, 2H), 6.44 (m, 1H), 6.30 (dd, 1H), 4.43 (d, 2H).

reactant | 2,4-difluoronitrobenzene | 5.0 mmol | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3,5-dichlorobenzylamine | 5.0 mmol | ClC=1C=C(CN)C=C(C1)Cl | C7H7Cl2N
reactant | N,N-diisopropylethylamine | 10.0 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-(3,5-Dichlorobenzylamino)-4-fluoro-nitrobenzene | 46% | ClC=1C=C(CNC2=C(C=CC(=C2)F)[N+](=O)[O-])C=C(C1)Cl | C13H9Cl2FN2O2
